US07713993B2
(2) Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide dihydrochloride
A solution of 4 N hydrochloric acid in ethyl acetate (3 mL) was added to a solution of tert-butyl N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazinecarboxylate (668 mg) in ethyl acetate (5 mL) and methanol (1 mL), and the reaction solution was stirred at room temperature for two hours. The solid precipitated in the reaction solution was collected by filtration and washed with diethyl ether to obtain 658 mg of the title compound. The property value of the compound is as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazinecarboxylate | 668 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(=O)OC(C)(C)C | C19H24N4O4
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide dihydrochloride | 658 mg | Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NN | InChI=1S/C14H16N4O2.2ClH/c1-10-8-18(9-16-10)12-5-3-11(7-13(12)20-2)4-6-14(19)17-15;;/h3-9H,15H2,1-2H3,(H,17,19);2*1H/b6-4+;;
